US07323475B2
[(4-Hydroxy-1-phenylsulfanyl-isoquinoline-3-carbonyl)-amino]-acetic acid
The title compound was prepared as follows: To a solution of 250 mg of [(1-chloro-4-hydroxy-isoquinoline-3-carbonyl)-amino]-acetic acid, (U.S. Pat. No. 6,093,730, disclosed as N-((1-chloro-4-hydroxyisoquinoline-3-yl)carbonyl)glycine), in 1 ml 1-methyl-2-pryrrolidinone was added 1.2 ml of benzenethiol. The solution was heated at 130 to 150° C. in a sealed tube for 16 h. The solution was concentrated under vacuum. The resultant residue was crystallized from methanol to yield 91 mg of a tan solid; MS (−) m/z 353.07 (M−1)

reactant | [(1-chloro-4-hydroxy-isoquinoline-3-carbonyl)-amino]-acetic acid | 250 mg | ClC1=NC(=C(C2=CC=CC=C12)O)C(=O)NCC(=O)O | C12H9ClN2O4
reactant | benzenethiol | 1.2 ml | C1(=CC=CC=C1)S | C6H6S
product | [(4-Hydroxy-1-phenylsulfanyl-isoquinoline-3-carbonyl)-amino]-acetic acid | OC1=C(N=C(C2=CC=CC=C12)SC1=CC=CC=C1)C(=O)NCC(=O)O | C18H14N2O4S
